US05977139
Combine t-butyl 1-piperazinecarboxylate (10.7 g, 57.5 mmol), ethyl 4-chlorobutyrate (10.4 mL), and potassium carbonate (8 g) in dimethylformamide (60 mL). Heat at reflux. After 4.5, hours, cool the reaction, dilute with an aqueous solution of sodium bicarbonate, and extract twice with diethyl ether (200 mL). Combine the organic layers and extract with a 1M aqueous solution of hydrochloric acid. Adjust the pH of the aqueous layer to basic using sodium bicarbonate and then extract twice with diethyl ether. Dry the combined organic layers over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting sequentially with 10% ethyl acetate/hexane, 20% ethyl acetate/hexane, 25% ethyl acetate/hexane to give t-butyl 4-carboethoxypropyl-1-piperazinecarboxylate. Rf =0.5 (silica gel, ethyl acetate).

reactant | t-butyl 1-piperazinecarboxylate | 57.5 mmol, 10.7 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | ethyl 4-chlorobutyrate | 10.4 mL | ClCCCC(=O)OCC | C6H11ClO2
reactant | potassium carbonate | 8 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | t-butyl 4-carboethoxypropyl-1-piperazinecarboxylate | C(=O)(OCC)CCCN1CCN(CC1)C(=O)OC(C)(C)C | C15H28N2O4
